US07728031B2
Trifluoro-methanesulfonic acid 4′-cyano-biphenyl-4-yl ester
Commercially available 4-cyano-4′-hydroxybiphenyl was dissolved in dichloromethane. Triethylamine (2.5 equiv.) was added and the mixture was stirred at room temperature. Triflic anhydride (1.3 equiv) was added slowly, and the resulting solution was stirred for 2 hours. The mixture was diluted with saturated aqueous sodium bicarbonate and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography to provide the title compound. 1H NMR (CDCl3) δ ppm 7.76 (d, J=8.82 Hz, 2H) 7.66 (d, J=8.82 Hz, 4H) 7.40 (d, J=8.82 Hz, 2H), MS: (M+H)+=328.

reactant | 4-cyano-4′-hydroxybiphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | Triethylamine | 2.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 1.3 equiv | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Trifluoro-methanesulfonic acid 4′-cyano-biphenyl-4-yl ester | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C14H8F3NO3S
